US03991064
3-[2-(Dimethylamino)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxybenzo[c][2,7]naphthyridin-5(6H)-one.
In the same way as described in example 10, 0.02 m of 1,2,3,4-tetrahydro-8,9-dimethoxybenzo[c][2,7]naphthyridin-5(6H)-one was alkylated with dimethylamino ethyl chloride. Crystallization from acetonitrile gave analytical material, mp 160°-164° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxybenzo[c][2,7]naphthyridin-5(6H)-one | COC=1C(=CC2=C(NC(C=3CNCCC23)=O)C1)OC | C14H16N2O3
reactant | dimethylamino ethyl chloride | CN(C)CCCl | C4H10ClN
product | 3-[2-(Dimethylamino)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxybenzo[c][2,7]naphthyridin-5(6H)-one | CN(CCN1CCC=2C3=C(NC(C2C1)=O)C=C(C(=C3)OC)OC)C | C18H25N3O3
